US06387938B1
Synthesis of 4-(3-(imidazol-2-yl)-2-propenoyl)-2-(2-phenylethyl)benzimidazole
Ethanol (15 mL) was added to 4-acetyl-2-(2-phenylethyl)benzimidazole (1 g) obtained in Reference Example 1 and 2-imidazolecarboxyaldehyde (304 mg) . Sodium hydroxide (405 mg) was added to the mixture and the mixture was stirred overnight at room temperature. The reaction solution was poured into ice water, adjusted to pH 8 with 4 N hydrochloric acid and then extracted with ethyl acetate. The organic layer was washed with water and brine in that order and then dried over anhydrous sodium sulfate. After evaporation of the solvent under a reduced pressure, the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain the title compound (0.35 g).

reactant | 4-acetyl-2-(2-phenylethyl)benzimidazole | 1 g | C(C)(=O)C1=CC=CC=2N=C(NC21)CCC2=CC=CC=C2 | C17H16N2O
reactant | Sodium hydroxide | 405 mg | [OH-].[Na+]
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | Ethanol | 15 mL | C(C)O | C2H6O
product | 4-(3-(imidazol-2-yl)-2-propenoyl)-2-(2-phenylethyl)benzimidazole | 0.35 g | N1C(=NC=C1)C=CC(=O)C1=CC=CC=2N=C(NC21)CCC2=CC=CC=C2 | C21H18N4O
